US08445690B2
5-[1-(2,4-Bis-trifluoromethyl-benzyl)-3-iodo-1H-indazol-5-ylmethylene]-2-[2-(4-methyl-piperazin-1-yl)-ethylamino]-thiazol-4-one was prepared from 1-(2,4-Bis-trifluoromethyl-benzyl)-3-iodo-1H-indazole-5-carbaldehyde and 2-[2-(4-Methyl-piperazin-1-yl)-ethylamino]-thiazol-4-one following General Procedure E.

reactant | 1-(2,4-Bis-trifluoromethyl-benzyl)-3-iodo-1H-indazole-5-carbaldehyde | FC(C1=C(CN2N=C(C3=CC(=CC=C23)C=O)I)C=CC(=C1)C(F)(F)F)(F)F | C17H9F6IN2O
reactant | 2-[2-(4-Methyl-piperazin-1-yl)-ethylamino]-thiazol-4-one | CN1CCN(CC1)CCNC=1SCC(N1)=O | C10H18N4OS
product | 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-3-iodo-1H-indazol-5-ylmethylene]-2-[2-(4-methyl-piperazin-1-yl)-ethylamino]-thiazol-4-one | FC(C1=C(CN2N=C(C3=CC(=CC=C23)C=C2C(N=C(S2)NCCN2CCN(CC2)C)=O)I)C=CC(=C1)C(F)(F)F)(F)F | C27H25F6IN6OS
